US07071182B2
2-[4-(benzyloxy)phenyl]-N-[3-chloro-1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide
A mixture of 3-chloro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylamine (300 mg, 1.14 mmol), (4-benzyloxy-phenyl)-acetic acid (302 mg, 1.25 mmol), ethyldimethylpropylcarbodiimide hydrochloride (261 mg g, 1.37 mmol), N-hydroxybenzotriazole (184 mg, 1.37 mmol), N-methyl morpholine (290 mg, 2.72 mmol) in 5 mL of DMF was stirred for 6 hours and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, triethylamine/ethyl acetate, 1/10) to provide the title compound. 1H NMR (300 MHz, DMSO-d6) ppm 1.60 (m, 4H), 2.43 (m, 4H), 2.85 (t, 2H, J=6.44), 3.69 (s, 2H), 4.48 (t, 2H, J=6.44), 5.10 (s, 2H), 6.99 (d, 2H, J=8.81), 7.28–7.48 (m, 9H), 7.59 (m, 1H), 10.10 (s, 1H); MS (DCI/NH3) m/z 489 [M+H]+.

reactant | 3-chloro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylamine | 1.14 mmol, 300 mg | ClC1=NN(C2=CC=CC(=C12)N)CCN1CCCC1 | C13H17ClN4
reactant | (4-benzyloxy-phenyl)-acetic acid | 1.25 mmol, 302 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 1.37 mmol, 261 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 1.37 mmol, 184 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 2.72 mmol, 290 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[4-(benzyloxy)phenyl]-N-[3-chloro-1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=C2C(=NN(C2=CC=C1)CCN1CCCC1)Cl | C28H29ClN4O2
